US04230707
10-Oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carbonitrile
A mixture of 10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide (1.4 g, 0.006 mol), p-toluenesulfonyl chloride (1.6 g, 0.008 mol), and pyridine (1.4 ml, 0.017 mol) in dimethylformamide (10 ml) is heated at 95° C. for 75 minutes. The mixture is cooled, diluted with water (5 ml) and stirred. The precipitate is filtered, washed with water, with ethanol and dried. Recrystallization from dimethylformamide gives the product (0.8 g.), mp 263°-264° C. (dec).

reactant | 10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide | 0.006 mol, 1.4 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)N)C=CS2 | C11H7N3O2S
reactant | p-toluenesulfonyl chloride | 0.008 mol, 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.017 mol, 1.4 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 10-Oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carbonitrile | O=C1C2=C(N=C3N1C=C(C=C3)C#N)C=CS2 | C11H5N3OS
